US08466167B2
4-(4-((trimethylsilyl)ethynyl)phenyl)but-3-yn-1-ol was prepared from ((4-bromophenyl)ethynyl)trimethylsilane (commercially available) and but-3-yn-1-ol (commercially available) following the procedures described for Example 44/Step 1.

reactant | ((4-bromophenyl)ethynyl)trimethylsilane | BrC1=CC=C(C=C1)C#C[Si](C)(C)C | C11H13BrSi
reactant | but-3-yn-1-ol | C(CC#C)O | C4H6O
product | 4-(4-((trimethylsilyl)ethynyl)phenyl)but-3-yn-1-ol | C[Si](C)(C)C#CC1=CC=C(C=C1)C#CCCO | C15H18OSi
